US08492559B2
Stage 6: tert-Butyl 2-(6-(8-chloro-4-methyl-1-oxopyrrolo[3,4-b]indol-2(1H,3H,4H)-yl)-1H-indol-1-yl)acetate
Methyl 2-((1-(2-tert-butoxy-2-oxoethyl)-1H-indol-6-ylamino)methyl)-4-chloro-1-methyl-1H-indole-3-carboxylate (2.416 mmol, 1 equiv.) was dissolved in dichloromethane (36 ml), and (CH3)3Al (2 M solution in toluene, 4.83 mmol) was added at 0° C., under nitrogen. After 10 min, the reaction mixture was heated to 25° C. and then stirred for 2 h. The reaction mixture was diluted with dichloromethane and hydrolysed with 2 M HCl. The phases were separated, and the organic phase was washed with water and sat. NaCl solution (in each case 10 ml). Drying over Na2SO4 was then carried out, followed by concentration under reduced pressure. The product was crystallized from ethyl acetate. Yield: 89%

reactant | Methyl 2-((1-(2-tert-butoxy-2-oxoethyl)-1H-indol-6-ylamino)methyl)-4-chloro-1-methyl-1H-indole-3-carboxylate | 2.416 mmol, 1 equiv. | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)NCC=1N(C2=CC=CC(=C2C1C(=O)OC)Cl)C)=O | C26H28ClN3O4
reactant | (CH3)3Al | 4.83 mmol, 2 M | [Al](C)(C)C
solvent | dichloromethane | 36 ml | ClCCl | CH2Cl2
solvent | HCl | 2 M | Cl | ClH
product | tert-Butyl 2-(6-(8-chloro-4-methyl-1-oxopyrrolo[3,4-b]indol-2(1H,3H,4H)-yl)-1H-indol-1-yl)acetate | Yield: 89% | ClC=1C=2C3=C(N(C2C=CC1)C)CN(C3=O)C3=CC=C1C=CN(C1=C3)CC(=O)OC(C)(C)C | C25H24ClN3O3
